US03998834
A mixture of 17.5 parts of 4-(ethoxymethyl)-N-phenyl-1-(phenylmethyl)-4-piperidinamine and 36 parts of propionic acid anhydride is stirred and refluxed for 6 hours. The reaction mixture is poured onto ice-water and the whole is basified with ammonium hydroxide. The product is extracted with trichloromethane. The extract is washed with water, dried, filtered and evaporated. The residue is converted into the ethanedioate salt in 2-propanone. The salt is filtered off and crystallized from 2-propanol (135 parts). The product is filtered off and dried, yielding N-[4-(ethoxymethyl)-1-(phenylmethyl)-4-piperidinyl]-N-phenylpropanamide ethanedioate; mp. 181.2° C.

reactant | 4-(ethoxymethyl)-N-phenyl-1-(phenylmethyl)-4-piperidinamine | C(C)OCC1(CCN(CC1)CC1=CC=CC=C1)NC1=CC=CC=C1 | C21H28N2O
reactant | propionic acid anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | ammonium hydroxide | [OH-].[NH4+]
product | N-[4-(ethoxymethyl)-1-(phenylmethyl)-4-piperidinyl]-N-phenylpropanamide ethanedioate | C(C(=O)O)(=O)O.C(C)OCC1(CCN(CC1)CC1=CC=CC=C1)N(C(CC)=O)C1=CC=CC=C1 | InChI=1S/C24H32N2O2.C2H2O4/c1-3-23(27)26(22-13-9-6-10-14-22)24(20-28-4-2)15-17-25(18-16-24)19-21-11-7-5-8-12-21;3-1(4)2(5)6/h5-14H,3-4,15-20H2,1-2H3;(H,3,4)(H,5,6)
